US05403852
3 g of (RS)-7(4,5-diphenyl-2-oxazolyl)-2-methylheptanenitrile in 30 cm3 of dimethylformamide are treated with twice 1.7 g of sodium azide and twice 3.6 g of triethylamine hydrochloride under the (time and temperature) conditions defined in Example 1. After treatment, the product of the reaction is chromatographed on a column 2 cm in diameter containing 78 g of silica gel (50 to 200μ). The column is eluted, collecting 200 cm3 fractions, with 1 liter of diisopropyl ether and then with 1.6 liters of a diisopropyl ether/ethyl acetate (95:5 by volume) mixture. The fractions from the last eluent mixture are concentrated to dryness under reduced pressure (0.2 kPa). 2.3 g (68%) of (RS)-5-[7-(4,5-diphenyl-2-oxazolyl)-2-heptyl]-1H-tetrazole are obtained in the form of a yellowish oil.

reactant | (RS)-7(4,5-diphenyl-2-oxazolyl)-2-methylheptanenitrile | 3 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCCCCC(C#N)C | C23H24N2O
reactant | sodium azide | 1.7 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 3.6 g | Cl.C(C)N(CC)CC
solvent | dimethylformamide | 30 cm3 | CN(C=O)C | C3H7NO
product | (RS)-5-[7-(4,5-diphenyl-2-oxazolyl)-2-heptyl]-1H-tetrazole | 2.3 g, 68% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCCCCC(C)C1=NN=NN1 | C23H25N5O
